US07291631B2
COMPOUND 363:{3-[(3.5-Dimethyl-pyridin-2-ylmethyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amino]-propyl}-urea (HBr salt)
To a solution of N1-(3,5-Dimethyl-pyridin-2-ylmethyl)-N1-(5,6,7,8-tetrahydro-quinolin-8-yl)-propane-1,3-diamine (101 mg, 0.31 mmol) in 2-propanol (4 mL) was added trimethylsilyl-isocyanate (65 μL, 0.48 mmol). The resultant solution was stirred at room temperature overnight then concentrated. Purification of the crude material by radial chromatography on silica gel (1 mm plate, 20:1:1 CH2Cl2-MeOH—NH4OH) provided 83 mg (73%) of the free base of the title compound as a white foam. Conversion of the white foam to the HBr salt gave COMPOUND 363 as a white solid. 1H NMR (D2O) δ 1.40-1.50 (m, 2H), 1.71-1.84 (m, 1H), 1.99-2.23 (m, 2H), 2.34-2.40 (m, 2H), 2.41 (s, 3H), 2.44 (s, 3H), 2.63-2.73 (m, 1H), 2.88 (t, 2H, J=6.3 Hz), 2.95-2.98 (m, 2H), 4.12 (d, 1H, J=17.4 Hz), 4.33 (d, 1H, J=17.4 Hz), 4.45 (dd, 1H, J=5.7, 10.5 Hz), 7.83 (dd, 1H, J=7.8, 5.4 Hz), 8.18 (s, 1H), 8.32 (d, 1H, J=7.8 Hz), 8.42 (s, 1H), 8.57 (d, 1H, J=5.4 Hz); 13C NMR (D2O) δ 17.06, 17.52, 20.46, 20.62, 27.83, 28.80, 37.85, 49.55, 51.95, 61.05, 125.86, 136.65, 137.41, 137.78, 139.38, 140.73, 148.09, 148.74, 149.24, 151.20; ES-MS m/z 368 (M+H). Anal. Calcd. For C21H29N5O.3.0HBr.2.9H2O: C, 38.07; H, 5.75; N, 10.57; Br, 36.18. Found: C, 38.05; H, 5.86; N, 10.68; Br, 36.20.

reactant | N1-(3,5-Dimethyl-pyridin-2-ylmethyl)-N1-(5,6,7,8-tetrahydro-quinolin-8-yl)-propane-1,3-diamine | 0.31 mmol, 101 mg | CC=1C(=NC=C(C1)C)CN(CCCN)C1CCCC=2C=CC=NC12 | C20H28N4
reactant | trimethylsilyl-isocyanate | 0.48 mmol, 65 μL | C[Si](C)(C)N=C=O | C4H9NOSi
solvent | 2-propanol | 4 mL | CC(C)O | C3H8O
product | {3-[(3.5-Dimethyl-pyridin-2-ylmethyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amino]-propyl}-urea | 83 mg, 73% | CC=1C(=NC=C(C1)C)CN(CCCNC(=O)N)C1CCCC=2C=CC=NC12 | C21H29N5O
